Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Amoxicillin / Codeine / Latex / Lactose / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
AV Fistula ulceration and recurrent bleeding
 
Major Surgical or Invasive Procedure:
AV Fistula Sutured
Placement of Tunneled IJ Catheter
 
History of Present Illness:
___ hx anuric HTN-ESRD on HD via RUE AVF since ___ notable for 
revisions x5 for thrombus, stenosis, aneurysmal dilation most 
recently with excision of infected segment fistula/subsequent 
revision, last on ___. He last presented to ___ ED ___ 
with concern for bleeding, was stable, and discharged from ED. 
Now presenting from outpatient dialysis after full cycle of HD 
with new opening of surgical incision without active bleeding 
and concern for inadequate soft tissue coverage. Denies 
paresthesias, pain, tingling in R hand.
Denies pain, fevers chills, night sweats, unexplained weight 
loss, changes in appetite, trouble with sleep, weakness, 
paresthesias, nausea, vomiting, hematemesis, bloating, cramping, 
melena, BRBPR, dysphagia, chest pain, shortness of breath, 
cough, edema, urinary frequency, urgency

 
Past Medical History:
ESRD on HD ___, anemia, CAD, hypertension, systolic CHF,
hypothyroidism, psoriasis, restless leg syndrome, h/o L3 burst
fracture, s/p spinal fusion L2-4 ___, h/o MSSA osteomyelitis,
h/o MSSA epidural abscess, h/o MSSA paraspinal abscess, h/o MSSA
bacteremia.

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
Weight: 53 kg
VS: T 96.8, HR 80, BP 126/78, RR 18, SaO2 100ra
GEN: A/Ox3, NAD
HEENT: PERRL, MMM
CV: RRR, No M/G/R, nl s1s2
PULM: CTAB, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: No ___ edema, ___ warm and well perfused. 
Right arm with large AV fistula with aneurysm. Proximal fistula
site with 2.5cm soft tissue defect, superior pole with fibrinous
exudate, inferior pole with minimal clot. No signs of active
bleeding or purulent drainage. Distal fistula site multiple 
scabs
without stigmata of recent bleeding.

 
Pertinent Results:
On Admission: ___ 
WBC-4.8 RBC-3.52* Hgb-10.3* Hct-33.8* MCV-96 MCH-29.1 MCHC-30.3* 
RDW-16.8* Plt ___ PTT-30.5 ___
Glucose-71 UreaN-14 Creat-2.8*# Na-141 K-4.6 Cl-99 HCO3-30 
AnGap-17
Calcium-8.7 Phos-4.0 Mg-1.9
.
___ 05:15PM Hct-24.9*
.
___ 05:15AM Hct-30.3*
___ ___ PTT-32.7 ___
___ Gluc-71 UreaN-24* Creat-4.6* Na-141 K-4.8 Cl-99 HCO3-29 
AnGap-18
Calcium-9.1 Phos-5.1* Mg-2.___ y/o male with significant dialysis access history, most 
recent revision was ___. He presented to the ED following 
HD with concern for bleeding from the aneurysmal fistula.
The patient was found to have significant bleeding once admitted 
through the ED, and despite pressure placed to access, the 
fistula continued to bleed. Hct dropped from
33.8 on admission to 24.9. The access was sutured by Dr ___ 
___ with resultant hemostasis. The access continued to have a 
positive bruit and thrill.
He received one unit of packed RBCs with post transfusion hct of 
 30.3 ___.
The patient was taken to interventional radiology for placement 
of a tunneled dialysis catheter to be able to facilitate rest 
for the access. A right IJ was placed with tip in the right 
atrium.  Hemodialysis was done on ___. On ___, avf 
dressing was clean and dry. 

___ evaluated him and recommended home ___. ___ services were 
arranged. He was discharged to home with instructions to receive 
HD at ___ on ___. 
 
Medications on Admission:
metoprolol succinate ER 100 mg daily, lisinopril 5 mg daily,  
synthroid ___ mcg daily, ropinirole 0.25 mg QHS, aspirin 81 mg  
daily, clonazepam 1 mg daily PRN, hydromorphone 8 mg BID,  
trazodone 50 mg QHS PRN insomnia, gabapentin 300-600 mg BID and  

900 mg QHS, betamethasone dipropionate 0.05 % topical cream to  
affected areas, bupropion HCl SR 150 mg daily, betametasone 
0.05%  
cream, renvela 2.4 gram TID with meals, renal caps 1 mg daily, B 
complex vitamins daily, buproprion 150'.  
 
Discharge Medications:
1. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).  
2. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
3. bupropion HCl 75 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
4. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation Q4H (every 4 hours) as needed for 
SOB/wheezing.  
6. betamethasone dipropionate 0.05 % Cream Sig: One (1) Appl 
Topical DAILY (Daily).  
7. clonazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety.  
8. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
11. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
12. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
13. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO prn: every 8 
hours as needed for pain.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
rue aneurysmal avf
esrd

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the access clinic at ___ for fever, chills, 
increased pain in the right arm, redness, drainage or bleeding. 
Please place pressure to any site that bleeds if this occurs 
again, and call ___ if the bleeding does not stop.
Continue all home medication
 
Followup Instructions:
___